US04659718
In a similar way to that described in Example 8a, 1H-3,1-benzoxazine-2,4-dione was reacted with (1-methyl-1H-tetrazol-5-yl)methyl lithium to give the novel compound 1-(2-aminophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone, m.p. 128°-132° (from ethyl acetate).

reactant | 1H-3,1-benzoxazine-2,4-dione | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | (1-methyl-1H-tetrazol-5-yl)methyl lithium | CN1N=NN=C1C[Li]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-aminophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=CC=C1)C(CC1=NN=NN1C)=O | C10H11N5O
